US08835428B2
(S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid
The title compound was prepared from (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid methyl ester as set forth in Example 8 and was obtained in 62% yield. Mass (ES+): 429 (M++1); IR (KBr): 3339, 2933, 1744; 1651 (br), 1594, 1527 (br); 1H NMR (DMSO-d6) δ: 0.92-0.96 (2×d, 6H), 1.09-1.79 (4×m, 10H), 2.18 (m, 1H), 3.45 (br, 1H), 4.25 (dd, 1H), 6.18 (d, 1H), 7.50 (d, 2H), 7.63 (s, 1H), 7.74 (d, 2H), 8.59 (s, 1H), 8.89 (d, 1H), 12.84 (br, 1H).

reactant | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid methyl ester | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1CCCCC1)=O | C23H30N4O5
reactant | KBr | [K+].[Br-]
product | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid | 62% yield | C1(CCCCC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N[C@H](C(=O)O)C(C)C)=O | C22H28N4O5
